US05650411
To a mixture of 20 g of 4-(4-methoxyphenyl)-1-piperazinecarboximidamide and 21 g of N-[3-(dimethylamino)methylene]amino]-2-propenylidene]-N-methylmethanaminium perchlorate in 200 ml of 1-propanol were added dropwise 70 ml of a solution of sodium methoxide in methanol (1M). After stirring for 2 hours there were added dropwise again 70 ml of a solution of sodium methoxide in methanol (1M). Then the mixture was stirred and refluxed for 2 hours. After cooling, the reaction mixture was evaporated and the residue was purified by column chromatography (eluent: CH2Cl2 /CH3OH 97:3). The eluent of the desired fraction was evaporated, yielding 15 g (62.5%) of N-[(dimethylamino)methylene]-2-[4-(4-methoxyphenyl)-1-piperazinyl]-5-pyrimidinamine (interm. 24);

reactant | 4-(4-methoxyphenyl)-1-piperazinecarboximidamide | 20 g | COC1=CC=C(C=C1)N1CCN(CC1)C(N)=N | C12H18N4O
reactant | N-methylmethanaminium perchlorate | Cl(=O)(=O)(=O)[O-].C[NH2+]C
reactant | sodium methoxide | C[O-].[Na+]
solvent | 1-propanol | 200 ml | C(CC)O | C3H8O
solvent | methanol | 1M | CO | CH4O
solvent | methanol | 1M | CO | CH4O
product | N-[(dimethylamino)methylene]-2-[4-(4-methoxyphenyl)-1-piperazinyl]-5-pyrimidinamine | 15 g, 62.5% | CN(C)C=NC=1C=NC(=NC1)N1CCN(CC1)C1=CC=C(C=C1)OC | C18H24N6O
